US05972951
4-Bromo-3-methylbenzaldehyde
A solution of N-methoxy-N-methyl-4-bromo-3-methylbenzamide (D17) (12 g; 0.046 mol) in dry tetrahydrofuran (120 ml) under argon, at -78° C. was treated dropwise over 15 minutes with diisobutylaluminium hydride (1.5 m in toluene) (46 ml; 0.069 mol). After a further 15 minutes the reaction mixture was added to 5N HCl (100 ml) and extracted into diethyl ether. The organic phase was dried (Na2SO4) and evaporated under reduced pressure to give the title compound as a red oil (8.98 g, 97%).

reactant | N-methoxy-N-methyl-4-bromo-3-methylbenzamide | 0.046 mol, 12 g | CON(C(C1=CC(=C(C=C1)Br)C)=O)C | C10H12BrNO2
reactant | diisobutylaluminium hydride | 0.069 mol, 46 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | HCl | 5N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 4-Bromo-3-methylbenzaldehyde | 8.98 g, 97% | BrC1=C(C=C(C=O)C=C1)C | C8H7BrO
